US07148226B2
6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-4-hydroxy-3-[(4-methyl-4H-1,2,4-triazol-3-yl)thio]-5,6-dihydro-2H-pyran-2-one
The title compound was prepared as described in Example C(70) where 3-chloro-6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3 H)-dione was used in place of 3-chloro-6-[2-(5-chloro-2,4-dimethoxyphenyl)ethyl]6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione and 4-methyl-4H-1,2,4-triazole-3-thiol was used in place of 6-hydroxy-8-mercaptopurine monohydrate.

reactant | 3-chloro-6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3 H)-dione | ClC1C(OC(CC1=O)(C1CCCC1)CCC1=CC(=C(C=C1)OC)Cl)=O | C19H22Cl2O4
reactant | 4-methyl-4H-1,2,4-triazole-3-thiol | CN1C(=NN=C1)S | C3H5N3S
product | 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-4-hydroxy-3-[(4-methyl-4H-1,2,4-triazol-3-yl)thio]-5,6-dihydro-2H-pyran-2-one | ClC=1C=C(C=CC1OC)CCC1(CC(=C(C(O1)=O)SC1=NN=CN1C)O)C1CCCC1 | C22H26ClN3O4S
